2113-08-28 21:06:00 Physician Attending Progress Note
Chief Complaint: hemoptysis, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68W admitted [**8-10**] with fever, SOB - diagnosied with COPD exacerbation
   and intubated. Started on abx and steroids. Extubated [**8-20**],
   re-intubated same day - hemoptysis noted that day. Bronch showed blood
   but no source. Trach and PEG [**8-22**]. Continued to have hemoptysis and
   required 2 units PRBCs. Also developed C Diff and started on vanco.
   History obtained from housestaff
   Patient unable to provide history: Sedated, ventilated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PAF on coumadin until hemoptysis began, verapamil and amio
   COPD
   cor pulmonale
   colostomy for tics
   HTN
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: hemoptysis
   Flowsheet Data as of  [**2113-8-28**] 09:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 68 (65 - 83) bpm
   BP: 139/65(84) {139/59(81) - 146/69(88)} mmHg
   RR: 14 (14 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  465 mL
   PO:
                  TF:
   IVF:
   Blood products:
   375 mL
   Total out:
                                                                      0 mL
                                                                    380 mL
   Urine:
   380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 21 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 7.4 L/min
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Lungs coarse vented breath sounds
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   175 K/uL
   127 mg/dL
   1.3 mg/dL
   34 mEq/L
   5.1 mEq/L
   39 mg/dL
   110 mEq/L
   148 mEq/L
   32.0 %
   11.0 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
   WBC
   11.0
   Hct
   32.0
   Plt
   175
   Cr
   1.3
   Glucose
   127
   Other labs: PT / PTT / INR:11.9/24.0/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Albumin:2.8 g/dL, LDH:336 IU/L, Ca++:8.3 mg/dL, Mg++:2.4
   mg/dL, PO4:3.3 mg/dL
   Imaging: CXR bilateral hazy infiltrates bilateral lower lung fields
   Assessment and Plan
   Hemoptysis
 perhaps related to suction trauma, less likely vasculitis,
   infection, etc., re-bronch tomorrow
   Resp failure
 continue vent support, bronchodilators, steroid taper
   PAF
 now in NSR, hold anti-coag
   CDiff
 on flagyl
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   Multi Lumen - [**2113-8-28**] 06:22 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition : ICU
   Total time spent:  36

2113-08-29 08:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 1108**] is a 68 year-old woman with history of PAF,
   COPD, and hypercapneic respiratory failure s/p trach/peg who is
   transferred from [**Hospital1 183**] for management of hemoptysis.
   24 Hour Events:
   - Patient was continued on steroid taper overnight.
   - She was given Lasix overnight for intermittent hypoxia
   - Anxious overnight -> gave Morphine prn
   - She has had increased bloody secretions overnight
   - Spoke to OSH and they are planning on burning a CD of CT Scans for
   daughter to pick up.
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-8-28**] 09:46 PM
   Furosemide (Lasix) - [**2113-8-28**] 10:48 PM
   Morphine Sulfate - [**2113-8-29**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-29**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.6
   HR: 69 (52 - 83) bpm
   BP: 153/64(87) {108/48(62) - 153/71(90)} mmHg
   RR: 15 (14 - 17) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    465 mL
                  PO:
                  TF:
   IVF:
   Blood products:
                                                                    375 mL
   Total out:
                                                                    720 mL
                                                                  1,230 mL
   Urine:
                                                                    720 mL
                                                                  1,230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                 -1,230 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 373 (373 - 373) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 48
   PIP: 18 cmH2O
   Plateau: 20 cmH2O
   SpO2: 99%
   ABG: 7.41/55/65/33/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   9.5 g/dL
   89 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.4 mEq/L
   37 mg/dL
   105 mEq/L
   145 mEq/L
   30.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
                             [**2113-8-28**]  10:25 PM
                             [**2113-8-29**]  12:00 AM
                             [**2113-8-29**]  04:59 AM
   WBC
   11.0
   9.2
   Hct
   32.0
   32.0
   30.5
   Plt
   175
   170
   Cr
   1.3
   1.2
   TCO2
   36
   Glucose
   127
   89
   Other labs: PT / PTT / INR:12.1/24.3/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 1108**] is a 68 year-old woman with history of PAF, COPD, and
   hypercapneic respiratory failure s/p trach/peg who is transferred from
   [**Hospital1 183**] for management of hemoptysis.
   #  Hemoptysis:  Likely related to mucosal/soft tissue injury from ETT
   in setting of an elevated INR but could also be secondary to pulmonary
   source, given previously visualized bloody secretions in airway.  Other
   possibilities include bronchiectasis v. DAH, infection, neoplasm,
   though no acute process seen on chest CT at OSH
   - Increase size of trach tube for bronchoscopy
   - Repeat bronch this afternoon
   - Obtain CT images from OSH
   - Low suspicion for TB so will defer respiratory precautions
   - Hold on antibx for now
   - no role for IR/angio at this time but would consult if bleeding
   increases
   - daily hct
   - F/U anca, [**Doctor First Name **], anti-gbm studies at [**Hospital1 183**]
   # Hypercapneic respiratory failure/COPD:  Patient has been on AC and
   was not able to be sustained on PS.  Secondary to COPD exacerbation.
   She is s/p trach/peg.  Was started on vanc on admission/other
   antibiotics (not listed in records) and completed 7 day course of zosyn
   on [**8-28**].  On steroid taper and last received solumedrol 40 mg iv daily
   on [**8-28**].
   - Continue prednisone taper (Continue 20 [**Hospital1 **] now and start taper
   tomorrow)
   - Albuterol and ipatroprium MDIs
   - Cont AC for now
   - Continue to hold antibiotics
   # PAF: On Verapamil and Amiodarone and Warfarin as an outpatient.
   - Continue verapamil and Amiodarone
   - Will hold on warfarin/aspirin for now
   # C. diff colitis:  Started on po vanc while hospitalized; likely
   secondary to antibiotics.  On day 8 on day of transfer.
   - Continue Flagyl 500 mg TID.  (Now day [**8-18**])
   - V/U Cdiff culture
   ICU Care
   Nutrition:  TF recommedations, replete electrolytes
   Glycemic Control:
   Lines:   Must change central line
   Multi Lumen - [**2113-8-28**] 06:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient. Dr. [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 7847**] (pager) is ICU attg
   at [**Hospital1 183**].  Daughter is [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 7848**] (c) [**Telephone/Fax (1) 7849**] (h)
   Code status:  Full
   Disposition:  ICU for now

2113-08-29 10:02:00 Physician Attending Progress Note
Chief Complaint: hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68F with severe COPD, PAF on coumadin in the past, admitted to [**Hospital1 2208**] with COPD exacerbation, intubated for hypercarbic resp failure
   on [**8-10**], failed extubation on [**8-20**] in part due to hemoptysis,
   reintubated and trached, now transferred to work-up recurrent
   hemoptysis. Several prior bronchs did not identify any focal sources of
   bleeding.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2113-8-28**] 05:14 PM
 MULTI LUMEN - START [**2113-8-28**] 06:22 PM
   -mild fluid overload at night, responded to lasix
   -blood form ETT overnight, increasing
                              History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-8-28**] 09:46 PM
   Furosemide (Lasix) - [**2113-8-28**] 10:48 PM
   Morphine Sulfate - [**2113-8-29**] 05:00 AM
   Other medications:
   Solumed 20 q12, lansopr, riss, amio, ipratrop q6, albuterol q4
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-8-29**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 74 (52 - 83) bpm
   BP: 146/56(79) {108/48(62) - 153/71(90)} mmHg
   RR: 16 (14 - 17) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                    465 mL
                  PO:
                  TF:
   IVF:
   Blood products:
                                                                    375 mL
   Total out:
                                                                    720 mL
                                                                  1,490 mL
   Urine:
                                                                    720 mL
                                                                  1,490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -255 mL
                                                                 -1,490 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 373 (373 - 373) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 48
   PIP: 37 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.41/55/65/33/7
   Ve: 8.2 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: rhonchorous, no wheezing
   Abdominal: Soft, Non-tender, ostomy bag
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   170 K/uL
   89 mg/dL
   1.2 mg/dL
   33 mEq/L
   4.4 mEq/L
   37 mg/dL
   105 mEq/L
   145 mEq/L
   30.5 %
   9.2 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
                             [**2113-8-28**]  10:25 PM
                             [**2113-8-29**]  12:00 AM
                             [**2113-8-29**]  04:59 AM
   WBC
   11.0
   9.2
   Hct
   32.0
   32.0
   30.5
   Plt
   175
   170
   Cr
   1.3
   1.2
   TCO2
   36
   Glucose
   127
   89
   Other labs: PT / PTT / INR:12.1/24.3/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.5 mg/dL
   Imaging: cxr:
   Microbiology: cx: ..
   Assessment and Plan
 HEMOPTYSIS
 RESPIRATORY FAILURE, CHRONIC
   CHF? -- HFpEF
   Colostomy
   AFIB
 amio
   68F with severe COPD on chronic steroids, PAF on coumadin in the past,
   admitted to [**Hospital3 187**] with COPD exacerbation, intubated for
   hypercarbic resp failure on [**8-10**], failed extubation on [**8-20**] in part due
   to hemoptysis, reintubated and trached, now transferred to work-up
   recurrent hemoptysis. Several prior bronchs did not identify any focal
   sources of bleeding.
   Hemoptysis etiology is unclear. [**Name2 (NI) **] obtain CT from OSH on CD for
   review. To perform an adequate bronch will change the trach to 8.0 with
   same outer diameter and bronch in PM. If bleeding worsens will give
   DDAVP.
   She has many barriers to extubation, likely including fluid overload,
   COPD, and muscle weakness. Will address these after work-up of
   hemoptysis.
   Other plans per resident note, including continued treatment of CHF and
   c.diff.
   ICU Care
   Nutrition: tube feeds consult
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2113-8-28**] 06:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-08-30 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 1108**] is a 68 year-old woman with history of PAF,
   COPD, and hypercapneic respiratory failure s/p trach/peg who is
   transferred from [**Hospital1 183**] for management of hemoptysis.
   24 Hour Events:
 BRONCHOSCOPY - At [**2113-8-29**] 04:45 PM
 BAL FLUID CULTURE - At [**2113-8-29**] 05:30 PM
 MULTI LUMEN - STOP [**2113-8-29**] 07:51 PM
   - bronch: diffuse aw erythrema, no obvious source bleed, ? small tear,
   BALs sent
   - c diff negative
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-8-29**] 04:45 PM
   Morphine Sulfate - [**2113-8-30**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-30**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.8
C (98.2
   HR: 49 (49 - 75) bpm
   BP: 142/64(84) {125/48(56) - 158/73(94)} mmHg
   RR: 14 (11 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    255 mL
                                                                    258 mL
   PO:
                  TF:
                                                                     45 mL
                                                                    198 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                    570 mL
   Urine:
                                                                  2,725 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,470 mL
                                                                   -312 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 373 (373 - 373) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 45
   PIP: 33 cmH2O
   Plateau: 22 cmH2O
   SpO2: 97%
   ABG: ///33/
   Ve: 8.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   165 K/uL
   9.9 g/dL
   110 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.7 mEq/L
   36 mg/dL
   104 mEq/L
   145 mEq/L
   32.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
                             [**2113-8-28**]  10:25 PM
                             [**2113-8-29**]  12:00 AM
                             [**2113-8-29**]  04:59 AM
                             [**2113-8-29**]  02:25 PM
                             [**2113-8-30**]  02:55 AM
   WBC
   11.0
   9.2
   8.9
   Hct
   32.0
   32.0
   30.5
   32.3
   32.1
   Plt
   175
   170
   165
   Cr
   1.3
   1.2
   1.1
   TCO2
   36
   Glucose
   127
   89
   110
   Other labs: PT / PTT / INR:12.1/24.3/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **], ANCA, ANTI-GBM PENDING
   Imaging: [**2113-8-29**] 5:16 pm BRONCHIAL WASHINGS
      GRAM STAIN (Final [**2113-8-29**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
      ACID FAST SMEAR (Preliminary):
      ACID FAST CULTURE (Preliminary):
      VARICELLA-ZOSTER CULTURE (Preliminary):
   Assessment and Plan
   Ms. [**Known lastname 1108**] is a 68 year-old woman with history of PAF, COPD, and
   hypercapneic respiratory failure s/p trach/peg who is transferred from
   [**Hospital1 183**] for management of hemoptysis.
   #  Hemoptysis:  Likely related to underlying pulmonary disease
   (emphysematous changes) vs mucosal/soft tissue injury from ETT in
   setting of an elevated INR; could also be secondary to pulmonary
   source, given previously visualized bloody secretions in airway.  Other
   possibilities include bronchiectasis v. DAH, infection, neoplasm,
   though no acute process seen on chest CT.  Hct stable.
   - s/p increased size of trach tube for bronchoscopy
   - continue to follow for evidence of bleeding
   - F/U anca, [**Doctor First Name **], anti-gbm studies. RF neg.
   - no role for antibx
   - no role for IR/angio at this time but would consult if bleeding
   increases
   - consider serial lavages  to eval for DAH
   - daily hct
   # Hypercapneic respiratory failure/COPD:  Patient has been on AC and
   was not able to be sustained on PS.  Secondary to COPD exacerbation.
   She is s/p trach/peg.  Was started on vanc on admission/other
   antibiotics (not listed in records) and completed 7 day course of zosyn
   on [**8-28**].  On steroid taper and last received solumedrol 40 mg iv daily
   on [**8-28**].
   - Continue prednisone taper (today is day 21 of steroids)
   - Albuterol and ipatroprium MDIs
   - will attempt trial of PS
   - Continue to hold antibiotics
   # PAF: On Verapamil and Amiodarone and Warfarin as an outpatient.
   - Continue verapamil and Amiodarone
   - Will hold on warfarin/aspirin for now
   # C. diff colitis:  Started on po vanc while hospitalized; likely
   secondary to antibiotics.
   - Continue Flagyl 500 mg TID.  (Now day [**9-18**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-8-29**] 09:00 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-29**] 03:30 PM
   22 Gauge - [**2113-8-30**] 03:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2113-08-30 10:58:00 Physician Attending Progress Note
Chief Complaint: resp failure, hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68F with severe COPD, presented to OSH with COPD exacerbation, with
   resp failure requiring trach and peg, now with persistent hemoptysis of
   unclear etiology:
   24 Hour Events:
 BRONCHOSCOPY - At [**2113-8-29**] 04:45 PM
 BAL FLUID CULTURE - At [**2113-8-29**] 05:30 PM
 MULTI LUMEN - STOP [**2113-8-29**] 07:51 PM
   -s/p bronch: erythematous airways, no focal lesions; unable to do
   adequate BAL because of need to use pediatric bronchoscope
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2113-8-29**] 04:45 PM
   Morphine Sulfate - [**2113-8-30**] 12:34 AM
   Other medications:
   colace, solumedrol, alb, ipratr, verapamil, flagyl, amio, ativan,
   lansopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO, Tube feeds
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Endocrine: Hyperglycemia
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-8-30**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 74 (49 - 74) bpm
   BP: 143/59(80) {125/48(56) - 158/73(94)} mmHg
   RR: 13 (11 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    255 mL
                                                                    354 mL
   PO:
                  TF:
                                                                     45 mL
                                                                    264 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,725 mL
                                                                    990 mL
   Urine:
                                                                  2,725 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,470 mL
                                                                   -636 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 45
   PIP: 27 cmH2O
   Plateau: 22 cmH2O
   SpO2: 96%
   ABG: ///33/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   No(t) Overweight / Obese, Anxious
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, stoma
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   165 K/uL
   110 mg/dL
   1.1 mg/dL
   33 mEq/L
   4.7 mEq/L
   36 mg/dL
   104 mEq/L
   145 mEq/L
   32.1 %
   8.9 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
                             [**2113-8-28**]  10:25 PM
                             [**2113-8-29**]  12:00 AM
                             [**2113-8-29**]  04:59 AM
                             [**2113-8-29**]  02:25 PM
                             [**2113-8-30**]  02:55 AM
   WBC
   11.0
   9.2
   8.9
   Hct
   32.0
   32.0
   30.5
   32.3
   32.1
   Plt
   175
   170
   165
   Cr
   1.3
   1.2
   1.1
   TCO2
   36
   Glucose
   127
   89
   110
   Other labs: PT / PTT / INR:12.1/24.3/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Imaging: none new; awaiting CT chest to be upload
   Microbiology: bal: f/u cultures
   Assessment and Plan
 HEMOPTYSIS
 RESPIRATORY FAILURE, CHRONIC
   68F with severe COPD, presented to OSH with COPD exacerbation, with
   resp failure requiring trach and peg, now with persistent hemoptysis of
   unclear etiology. The hemoptysis appears to be slowing down though has
   not resolved completely. The most likely explanation remains
   non-specific inflammation of airways from copd exacerbation, although
   it did seem to develop in the middle of her hospitalization. DAH seems
   very unlikely given CT findings, but will follow-up rheumatological
   serologies. Will still consider changing trach to one with bigger inner
   cannula size to be able to perform adequate BAL.
   Assuming hemoptysis will subside, with continue weaning from the
   ventilatory support and begin screening for LTAC.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-8-29**] 09:00 PM 25 mL/hour
   Glycemic Control:  good control
   Lines:
   20 Gauge - [**2113-8-29**] 03:30 PM
   22 Gauge - [**2113-8-30**] 03:08 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2113-08-31 08:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Ms. [**Known lastname 1108**] is a 68 year-old woman with history of PAF,
   COPD, and hypercapneic respiratory failure s/p trach/peg who is
   transferred from [**Hospital1 183**] for management of hemoptysis.
   24 Hour Events:
   - ANCA and [**Doctor First Name **] negative
   - Talked to IP about changing trach.   Too early right now, as recently
   placed
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2113-8-31**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 69 (53 - 74) bpm
   BP: 136/59(77) {93/42(57) - 157/69(90)} mmHg
   RR: 20 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    784 mL
                                                                    433 mL
   PO:
                  TF:
                                                                    694 mL
                                                                    433 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    550 mL
   Urine:
                                                                  1,790 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,306 mL
                                                                   -117 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 322 (322 - 531) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 68
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 97%
   ABG: ///34/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   , Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   143 K/uL
   11.1 g/dL
   221 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.8 mEq/L
   37 mg/dL
   102 mEq/L
   141 mEq/L
   35.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
                             [**2113-8-28**]  10:25 PM
                             [**2113-8-29**]  12:00 AM
                             [**2113-8-29**]  04:59 AM
                             [**2113-8-29**]  02:25 PM
                             [**2113-8-30**]  02:55 AM
                             [**2113-8-31**]  03:46 AM
   WBC
   11.0
   9.2
   8.9
   12.2
   Hct
   32.0
   32.0
   30.5
   32.3
   32.1
   35.1
   Plt
   175
   170
   165
   143
   Cr
   1.3
   1.2
   1.1
   1.2
   TCO2
   36
   Glucose
   127
   89
   110
   221
   Other labs: PT / PTT / INR:11.5/21.7/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Microbiology: [**2113-8-29**] 5:16 pm BRONCHIAL WASHINGS
      GRAM STAIN (Final [**2113-8-29**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
      FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      ACID FAST SMEAR (Final [**2113-8-30**]):
         NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR.
      ACID FAST CULTURE (Preliminary):
      VARICELLA-ZOSTER CULTURE (Preliminary):
   Assessment and Plan
   Ms. [**Known lastname 1108**] is a 68 year-old woman with history of PAF, COPD, and
   hypercapneic respiratory failure s/p trach/peg who is transferred from
   [**Hospital1 183**] for management of hemoptysis.
   #  Hemoptysis:  Likely related to underlying pulmonary disease
   (emphysematous changes) vs mucosal/soft tissue injury from ETT in
   setting of an elevated INR; could also be secondary to pulmonary
   source, given previously visualized bloody secretions in airway.  Other
   possibilities include bronchiectasis v. DAH, infection, neoplasm,
   though no acute process seen on chest CT.  Hct stable.
   - continue to follow for evidence of bleeding
   - F/U anti-gbm studies. RF neg.
   - no role for antibx
   - no role for IR/angio at this time but would consult if bleeding
   increases
   - consider serial lavages  to eval for DAH
   - daily hct
   # Hypercapneic respiratory failure/COPD:  Patient has been on AC and
   was not able to be sustained on PS.  Secondary to COPD exacerbation.
   She is s/p trach/peg.  Was started on vanc on admission/other
   antibiotics (not listed in records) and completed 7 day course of zosyn
   on [**8-28**].  On steroid taper and last received solumedrol 40 mg iv daily
   on [**8-28**].
   - Continue prednisone taper (today is day 22 of steroids)
   - Albuterol and ipatroprium MDIs
   - will attempt trial of PS
   - Continue to hold antibiotics
   # PAF: On Verapamil and Amiodarone and Warfarin as an outpatient.
   - Continue verapamil and Amiodarone
   - Will hold on warfarin/aspirin for now
    # C. diff colitis:  Started on po vanc while hospitalized; likely
   secondary to antibiotics.
   - Continue Flagyl 500 mg TID.  (Now day [**10-18**])
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-8-31**] 01:31 AM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2113-8-29**] 03:30 PM
   22 Gauge - [**2113-8-30**] 03:08 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:

2113-08-31 12:25:00 Physician Attending Progress Note
Chief Complaint: resp failure, hemoptysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68F with severe COPD, s/p trach and peg, txr from OSH for hemoptysis,
   still no clear aetiology but several reassuring bronchoscopies, now
   with decreased hemoptysis:
   24 Hour Events:
   -too soon for change trach
   -some decrease in hemoptysis though persists
   -anca, [**Doctor First Name **] neg
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2113-8-31**] 08:30 AM
   Other medications:
   colace, atrovent, albuterol, verapamil, lansopr, riss, flagyl, amio,
   prednisone 20 [**Hospital1 **]
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) OG / NG tube, trach
   Nutritional Support: No(t) NPO, Tube feeds
   Respiratory: Dyspnea, Tachypnea, No(t) Wheeze
   Genitourinary: Foley
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2113-8-31**] 12:14 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.7
C (98
   HR: 84 (53 - 84) bpm
   BP: 155/72(95) {93/42(57) - 160/72(95)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
                  Total In:
                                                                    784 mL
                                                                    705 mL
   PO:
                  TF:
                                                                    694 mL
                                                                    615 mL
   IVF:
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    650 mL
   Urine:
                                                                  1,790 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,306 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 322 (322 - 531) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 31
   PEEP: 8 cmH2O
   FiO2: 45%
   RSBI: 68
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 94%
   ABG: ///34/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: Thin, No(t) Anxious
   Head, Ears, Nose, Throat: No(t) Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   143 K/uL
   221 mg/dL
   1.2 mg/dL
   34 mEq/L
   4.8 mEq/L
   37 mg/dL
   102 mEq/L
   141 mEq/L
   35.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2113-8-28**]  05:31 PM
                             [**2113-8-28**]  10:25 PM
                             [**2113-8-29**]  12:00 AM
                             [**2113-8-29**]  04:59 AM
                             [**2113-8-29**]  02:25 PM
                             [**2113-8-30**]  02:55 AM
                             [**2113-8-31**]  03:46 AM
   WBC
   11.0
   9.2
   8.9
   12.2
   Hct
   32.0
   32.0
   30.5
   32.3
   32.1
   35.1
   Plt
   175
   170
   165
   143
   Cr
   1.3
   1.2
   1.1
   1.2
   TCO2
   36
   Glucose
   127
   89
   110
   221
   Other labs: PT / PTT / INR:11.5/21.7/1.0, ALT / AST:26/16, Alk Phos / T
   Bili:48/0.6, Differential-Neuts:97.0 %, Lymph:2.1 %, Mono:0.7 %,
   Eos:0.1 %, Lactic Acid:0.7 mmol/L, Albumin:2.8 g/dL, LDH:336 IU/L,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:3.7 mg/dL
   Imaging: cxr: improved bibasilar opacities
   Microbiology: bal: neg bact cx; viral cx pending
   Assessment and Plan
 HEMOPTYSIS
 RESPIRATORY FAILURE, CHRONIC
   68F with severe COPD, s/p trach and peg, txr from OSH for hemoptysis,
   still no clear aetiology but several reassuring bronchoscopies, now
   with decreased hemoptysis. Although hemoptysis continues, Hct remains
   stable and it seems to be improving. There is no evidence of infection
   based on BAL, but viral cultures are pending. Suspicion for infection
   is low.
   Pt is ready for discharge to rehab to continue liberation from
   ventilator support. Future trach changes will be done at the rehab.
   Steroid taper should be slow, probably by 10 mg weekly, to be finalized
   by pulmonologists at rehab. She will finish her course of flagyl for
   c.diff infection in several days. Although she has afib, will hold off
   continuing warfarin given hemoptysis, but should be restarted soon.
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2113-8-31**] 01:31 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2113-8-29**] 03:30 PM
   22 Gauge - [**2113-8-30**] 03:08 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : Transfer to rehab / long term care facility
   Total time spent: 35 minutes